US05166170
2-(2-Aminophenyl)-2,3-dihydro-1H-indole
Sodium cyanoborohydride (6.4 g) was added in several portions to a solution of 6.0 g 2-(2-aminophenyl)-1H-indole in 200 ml HOAc at 5° C. The resulting solution was stirred at room temperature overnight. Water was added and the reaction mixture was concentrated. The residue was diluted with ice water and made basic with 50% NaOH. This mixture was extracted with Et2O and the extracts were washed with water and saturated NaCl solution, and dried (MgSO4). Concentration gave 6.1 g crude product which was chromatographed by HPLC to give 3.05 g solid, m.p. 115°-117° C.

reactant | Sodium cyanoborohydride | 6.4 g | C(#N)[BH3-].[Na+]
reactant | 2-(2-aminophenyl)-1H-indole | 6.0 g | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | Water | O | H2O
solvent | HOAc | 200 ml | CC(=O)O | C2H4O2
product | 2-(2-Aminophenyl)-2,3-dihydro-1H-indole | 3.05 g | NC1=C(C=CC=C1)C1NC2=CC=CC=C2C1 | C14H14N2
